US07419986B2
2-[3-(6-Fluoro-indol-1-ylmethyl)-azetidin-1-ylmethyl]-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
A solution of (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester (0.4 g, 0.93 mmol), 1-azetidin-3-ylmethyl-6-fluoro-1H-indole (0.19 g, 0.93 mmol) and triethylamine (0.19 ml, 1.4 mmol) in dimethylsulfoxide (20 ml) was heated at 90° C. under nitrogen overnight. The reaction mixture was quenched with 1N sodium hydroxide and extracted with methylene chloride (3×80 mL). The organic layer was washed with water (3×50 mL), dried over anhydrous sodium sulfate, filtered and the solvent removed under vacuum. The crude oil was column chromatographed on silica gel (3% methanol-ethyl acetate). The product-containing fractions were concentrated in vacuum to give 0.1 g of the (S)-enantiomer of the title compound as a brown oil. The hydrogen chloride salt was prepared in ethyl acetate and collected as a yellow solid: mp: 138° C. (dec).

reactant | (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester | 0.93 mmol, 0.4 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)COS(=O)(=O)C3=CC=C(C=C3)Br | C19H16BrNO5S
reactant | 1-azetidin-3-ylmethyl-6-fluoro-1H-indole | 0.93 mmol, 0.19 g | N1CC(C1)CN1C=CC2=CC=C(C=C12)F | C12H13FN2
reactant | triethylamine | 1.4 mmol, 0.19 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-[3-(6-Fluoro-indol-1-ylmethyl)-azetidin-1-ylmethyl]-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | FC1=CC=C2C=CN(C2=C1)CC1CN(C1)CC1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C25H24FN3O2
